US04639267
Methyl 4-(2-(but-1-en-3-one-1-yl)-3,5-dimethyl-4-methoxyphenyl)butyrate (5.0 g) and sodium dimethyl malonate (6 g equiv) were stirred and heated at reflux in dry methanol (60 ml) for 6 hr. The solvent was evaporated under reduced pressure and the residue was heated at reflux with a 10% excess of an aqueous potassium hydroxide solution (60 ml) for 8 hr. The cooled mixture was extracted with diethyl ether. The aqueous fraction was heated to 60° C. and was acidified by slow addition of a dilute aqueous hydrochloric acid solution. The cooled mixture was extracted with ethyl acetate. The dried (MgSO4) organic fraction was evaporated to give 5-(6-[3-(carboxy)propyl]-2,4-dimethyl-3-methoxyphenyl)-3-hydroxycyclohex-2-en-1-one as a pale yellow foam. Pmr spectrum (acetone-d6 ; δ in ppm): 1.6-3.7 (11H,m); 2.28 (3H,m); 2.43 (3H,s); 3.65 (3H,s); 5.52 (1H,s); 6.91 (1H,s); 8.6 (2H,brs).

reactant | Methyl 4-(2-(but-1-en-3-one-1-yl)-3,5-dimethyl-4-methoxyphenyl)butyrate | 5.0 g | C(=CC(C)=O)C1=C(C=C(C(=C1C)OC)C)CCCC(=O)OC | C18H24O4
reactant | sodium dimethyl malonate | 6 g | C(CC(=O)OC)(=O)OC.[Na]
solvent | methanol | 60 ml | CO | CH4O
product | 5-(6-[3-(carboxy)propyl]-2,4-dimethyl-3-methoxyphenyl)-3-hydroxycyclohex-2-en-1-one | C(=O)(O)CCCC1=CC(=C(C(=C1C1CC(=CC(C1)=O)O)C)OC)C | C19H24O5
